US04963564
6-[(6-Bromohexyl)oxy]-1-hexyne
A mixture of 5-hexyn-1-ol (5 g), 1,6-dibromohexane (37.29 g), TAB (1 g) and 50% sodium hydroxide solution (20 ml) was stirred under nitrogen for 22 h. The mixture was diluted with water (100 ml) and extracted with diethyl ether (2×150 ml). The combined organic extracts were dried and evaporated in vacuo to give an oil. Purification by FCC eluting with hexane followed by hexane:ether (95:5) gave the title compound as a colourless oil. (7.7 g), t.l.c. (hexane:ether 2:1) Rf 0.80.

reactant | 5-hexyn-1-ol | 5 g | C(CCCC#C)O | C6H10O
reactant | 1,6-dibromohexane | 37.29 g | BrCCCCCCBr | C6H12Br2
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 6-[(6-Bromohexyl)oxy]-1-hexyne | BrCCCCCCOCCCCC#C | C12H21BrO
